* ACTUATOR_CHANNEL — субсхема из нетлиста KiCad + YAML
.subckt ACTUATOR_CHANNEL FB FB_RAW GND IN1 IN2 MOTOR_A MOTOR_B
  C1 GND GND 100n
  C2 FB GND 100n
  R1 Net-(U1-ILIM) unconnected-(R1-Pad2) 33k
  R2 FB_RAW FB 10k
  R3 FB GND 20k
  XU1 IN1 IN2 MOTOR_A MOTOR_B GND GND DRV8871
.ends ACTUATOR_CHANNEL
